US06245778B1
6-Benzyl-3-nitro-5,6,7,8-tetrahydro[1,6]naphthyridine
3,5-Dinitro-1-methyl-2-pyridone (1.99 g; 10 mmol) [prepared according to E. Matsumura, M. Ariga and Y. Tohda, Bull. Chem. Soc. Japan, 1979, 52, 2413 ] was added to a solution of ammonia in methanol (1.1M; 100 ml; 110 mmol) and then treated with 1-benzyl-4-piperidone (2.27 g; 12 mmol). The resulting mixture was heated at 60° C. for 5 h, cooled to room temperature and evaporated to dryness in vacuo. The residue was purified by chromatography through SiO2 eluting with 50% ethyl acetate/60-80° pet. ether to give the title compound (2.5 g; 93%). Recrystallisation from ethyl acetate −60-80° petroleum ether gave the title compound as a pale yellow, microcrystalline solid, mp 108° C.

reactant | 3,5-Dinitro-1-methyl-2-pyridone | 10 mmol, 1.99 g | [N+](=O)([O-])C=1C(N(C=C(C1)[N+](=O)[O-])C)=O | C6H5N3O5
reactant | ammonia | N | H3N
reactant | methanol | 110 mmol, 1.1M, 100 ml | CO | CH4O
reactant | 1-benzyl-4-piperidone | 12 mmol, 2.27 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
product | 6-Benzyl-3-nitro-5,6,7,8-tetrahydro[1,6]naphthyridine | 2.5 g, 93% | C(C1=CC=CC=C1)N1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C15H15N3O2
